US09062048B2
Step A: 2-azido-1-(1,4-dioxaspiro[4.5]decan-8-yl)ethanol
To a solution of 8-(oxiran-2-yl)-1,4-dioxaspiro[4.5]decane (205 mg, 1.11 mmol), prepared in the previous step, in methanol (5 mL) water (0.5 mL) was added sodium azide (361 mg, 5.56 mmol) and ammonium chloride (119 mg, 2.22 mmol). The mixture was stirred, heating to 80° C. under argon overnight and then cooled to ambient temperature and concentrated in vacuo. The residue was purified by flash chromatography (silica gel, ether) to afford the product.

reactant | 8-(oxiran-2-yl)-1,4-dioxaspiro[4.5]decane | 1.11 mmol, 205 mg | O1C(C1)C1CCC2(OCCO2)CC1 | C10H16O3
reactant | sodium azide | 5.56 mmol, 361 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 2.22 mmol, 119 mg | [Cl-].[NH4+]
solvent | methanol | 5 mL | CO | CH4O
product | 2-azido-1-(1,4-dioxaspiro[4.5]decan-8-yl)ethanol | N(=[N+]=[N-])CC(O)C1CCC2(OCCO2)CC1 | C10H17N3O3
